US08975438B2
Flow Synthesis of 1-(2-Ethyl-butyl)-cyclohexanecarboxylic acid
A stream of 1-(2-ethyl-butyl)-cyclohexanecarbonitrile (0.5 g, 2.59 mmol) in tert-butanol (12.5 mL, 0.2 M, flow=0.18 mL/min; Knauer WellChrom HPLC K-501 pump) was combined with a second stream containing aqueous sodium hydroxide solution (2.0 M, 50 mL, flow=0.70 mL/min; Knauer WellChrom HPLC K-501 pump) using a custom made static micromixer (internal volume ca. 0.1 mL). The resulting mixture was directed through a stainless steel coil reactor (volume=53 mL, ID=2.1 mm; Supelco 304 stainless steel; nominal residence time of 1 h, which doesn't take the volume expansion of the solvent mixture into account) equipped with a total back pressure valve of 2500 psi and heated to 280° C. by means of a HP 6890 Series GC Oven System.

reactant | 1-(2-ethyl-butyl)-cyclohexanecarbonitrile | 2.59 mmol, 0.5 g | C(C)C(CC1(CCCCC1)C#N)CC | C13H23N
reactant | sodium hydroxide | 2.0 M, 50 mL | [OH-].[Na+]
reactant | tert-butanol | 0.2 M, 12.5 mL | C(C)(C)(C)O | C4H10O
product | 1-(2-Ethyl-butyl)-cyclohexanecarboxylic acid | C(C)C(CC1(CCCCC1)C(=O)O)CC | C13H24O2
